US08440651B2
2-Chloro-4-morpholinopyrido[3,2-d]pyrimidine-6-carboxylic acid (0.12 g) was reacted with 2-(piperidin-4-yl)propan-2-ol (1.2 eq), HATU O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (1.2 eq) and DIPEA (3 eq) in DMF (3.2 mL) for 1 hour. The reaction was then extracted with EtOAc and bicarbonate solution and the organic layer was dried with Magnesium sulfate, filtered and concentrated to give (2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)(4-(2-hydroxypropan-2-yl)piperidin-1-yl)methanone in quantitative yield.

reactant | 2-Chloro-4-morpholinopyrido[3,2-d]pyrimidine-6-carboxylic acid | 0.12 g | ClC=1N=C(C2=C(N1)C=CC(=N2)C(=O)O)N2CCOCC2 | C12H11ClN4O3
reactant | 2-(piperidin-4-yl)propan-2-ol | 1.2 eq | N1CCC(CC1)C(C)(C)O | C8H17NO
reactant | DIPEA | 3 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3.2 mL | CN(C)C=O | C3H7NO
product | (2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)(4-(2-hydroxypropan-2-yl)piperidin-1-yl)methanone | quantitative yield | ClC=1N=C(C2=C(N1)C=CC(=N2)C(=O)N2CCC(CC2)C(C)(C)O)N2CCOCC2 | C20H26ClN5O3
